US06025350
2-Methoxyphenyl4 hydroxypiperidine
To a solution of N-benzyl-2,3-dihydro-2-(2-methoxyphenyl)4-pyridone (5.5 g, 18.77 mmol) (which was prepared by the procedures of Yamamoto et al., Tetrahedron, 1993, 49, 1749) in methanol (80 mL) was added Pd(OH)2 (1.7 9) and the resulting suspension was hydrogenated (50 psi) for 20 hours. Pd-C was then filtered off and the crude reaction mixture was concentrated in vacuo to give a residue, which was purified by silica gel flash chromatography (5% MeOH-0.5% NH3 .diamond-solid.H2O-94.5% CH2Cl2) to afford the title compound as a solid (1.5g). 13C NMR (CDCl3, 100 MHz) ) δ:156.5, 131.4, 128.1, 126.9, 120.8, 110.3, 69.6, 55.3, 53,8, 45.1, 41.7, and 35.6.

reactant | N-benzyl-2,3-dihydro-2-(2-methoxyphenyl)4-pyridone | 18.77 mmol, 5.5 g | C(C1=CC=CC=C1)N1C(CC(C=C1)=O)C1=C(C=CC=C1)OC | C19H19NO2
reactant | methanol | 80 mL | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 2-Methoxyphenyl4 hydroxypiperidine | 1.5g | COC1=C(C=CC=C1)N1CCC(CC1)O | C12H17NO2
